US06451810B1
Triethylamine (1.2 g, 11.4 mmol) was added in a single portion to a slurry of 1-(2-aminoethyl)-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-4-amine hydrochloride (3.39 g, 10.53 mmol) in chloroform (150 mL). The reaction mixture became clear. N-hydroxysuccinimidobiotin (3.0 g, 8.79 mmol) was then slowly added. After 2 hours the turbid reaction mixture was heated to reflux. The reaction mixture was maintained at reflux overnight and became clear. The reaction mixture was allowed to cool to ambient temperature and then it was quenched with water. The layers were separated. The organic layer was dried over magnesium sulfate and then concentrated to provide an off-white solid. This material was recrystallized from 8:2 ethanol:water to provide a white solid. A portion of this material was purified by prep HPLC eluting with water/acetonitrile/trifluoroacetic acid to provide 0.6 g of N1-[2-(4-amino-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl)ethyl]-5-(2-oxoperhydrothieno[3,4-d]imidazol-4-yl)pentanamide as the ditrifluoroacetate salt, m.p. 171-175° C. Analysis: Calculated for: C25H33N7O3S.2 C2HF3O2: %C, 47.09; %H, 4.77; %N, 13.26; Found: %C, 47.06; %H, 5.17; %N, 13.31.

reactant | Triethylamine | 11.4 mmol, 1.2 g | C(C)N(CC)CC | C6H15N
reactant | 1-(2-aminoethyl)-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-4-amine hydrochloride | 10.53 mmol, 3.39 g | Cl.NCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)COCC
reactant | N-hydroxysuccinimidobiotin | 8.79 mmol, 3.0 g | ON1[C@H]2CS[C@@H](CCCC(C(O)=O)N3C(CCC3=O)=O)[C@H]2NC1=O | C14H19N3O6S
solvent | chloroform | 150 mL | C(Cl)(Cl)Cl | CHCl3
product | N1-[2-(4-amino-2-(ethoxymethyl)-1H-imidazo[4,5-c]quinolin-1-yl)ethyl]-5-(2-oxoperhydrothieno[3,4-d]imidazol-4-yl)pentanamide | 0.6 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCNC(CCCCC2SCC1NC(NC12)=O)=O)COCC | C25H33N7O3S
